US06617336B1
3.7 g (24.3 mmol) of tert-butyldimethylsilyl chloride and 3.4 g of (50 mmol) of imidazole are added at ambient temperature to a solution of 6.5 g (23.2 mmol) of 2-phenyl-3-methyl-8-(1-(S),2-dihydroxyethyl)-quinoline in 200 ml of dimethylformamide. The reaction medium is stirred for 16 hours. After addition of 200 ml of distilled water, the reaction mixture is extracted with 3×200 ml of ethyl acetate. The organic phases are combined, washed with 300 ml of distilled water, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is purified by silica gel chromatography (eluent: ethyl acetate/cyclohexane to provide 8.4 g of 2-phenyl-3-methyl-8-(1-(S)-hydroxy-2-[tert-butyldimethylsilyloxy]ethyl)quinoline in the form of a colorless oil. (Yield: 85%)

reactant | tert-butyldimethylsilyl chloride | 24.3 mmol, 3.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 50 mmol, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | 2-phenyl-3-methyl-8-(1-(S),2-dihydroxyethyl)-quinoline | 23.2 mmol, 6.5 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO)O | C18H17NO2
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-phenyl-3-methyl-8-(1-(S)-hydroxy-2-[tert-butyldimethylsilyloxy]ethyl)quinoline | 8.4 g, Yield: 85% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO[Si](C)(C)C(C)(C)C)O | C24H31NO2Si
